data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4126,4721,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[CH-:20][C:21]#[N:22]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:20]([C:21]#[N:22])[N:18]([CH3:19])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,22.435812802716928,-18.12266866349592
2598,2880,[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([C:9](=[O:10])[O:11][CH3:12])([C:13](=[O:14])[O:15][CH3:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][C:22](=[O:23])[c-:24]1[c:25](=[O:26])[o:27][c:28](-[c:29]2[cH:30][cH:31][cH:32][cH:33][cH:34]2)[n+:35]1[CH3:36]>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([C:9](=[O:10])[O:11][CH3:12])([C:13](=[O:14])[O:15][CH3:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:24]1([C:22]([CH3:21])=[O:23])[C:25](=[O:26])[O:27][C:28]2([c:29]2[cH:30][cH:31][cH:32][cH:33][cH:34]2)[N:35]1[CH3:36],water,298.15,27.438981157211884,-7.969038601167883
85,96,[CH3:1][O:2][C:3]#[C:4][F:5].[CH3:6][C:7]([C:8]#[N:9])=[NH+:10][N-:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][O:2][C:3]1=[C:4]([F:5])[N:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[NH:10][C:7]1([CH3:6])[C:8]#[N:9],water,298.15,21.343392042624444,-59.13982818601149
1362,1497,[CH3:16][C:17](=[O:18])[C-:19]([CH3:20])[O+:21]=[C:22]([C:23]#[N:24])[C:25]#[N:26].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:19]([C:17]([CH3:16])=[O:18])([CH3:20])[O:21][C:22]2([C:23]#[N:24])[C:25]#[N:26],water,298.15,24.557324535675487,-29.944343942387803
1850,2052,[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([C:11](=[O:12])[NH:13][CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:21][C:22](=[O:23])[C:24]([C:25]#[N:26])=[N+:27]([CH3:28])[O-:29]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([C:11](=[O:12])[NH:13][CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[O:29][N:27]([CH3:28])[C:24]1([C:22]([CH3:21])=[O:23])[C:25]#[N:26],water,298.15,40.4952367011979,17.191171806541238
2687,2985,[CH3:14][O:15][C:16](=[O:17])[C:18](=[NH+:19][C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]([F:6])([F:7])[F:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[NH:19][C:18]2([C:16]([O:15][CH3:14])=[O:17])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,44.372091349290784,14.484831313385644
4793,5472,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([CH3:16])[NH+:17]=[C:18]([C:19]([CH3:20])=[O:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[NH:17][C:18]2([C:19]([CH3:20])=[O:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,33.118559367196625,-8.979685830918045
4089,4682,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([N+:12]#[C:13][C:14]([CH3:15])=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([C:14]([CH3:15])=[O:16])=[N:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,21.142492343677368,-27.561294536219112
686,746,[CH3:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[O+:19][C-:20]([C:21]#[N:22])[C:23]#[N:24].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:20]([C:21]#[N:22])([C:23]#[N:24])[O:19][C:16]3([C:14]([CH3:13])=[O:15])[C:17]#[N:18],water,298.15,5.221886113021679,-55.59487212035573
3890,4450,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][N-:16][C:17](=[O:18])[O:19][CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])=[N:15][N:16]1[C:17](=[O:18])[O:19][CH3:20],water,298.15,17.975855377865226,-40.74810208936117
685,745,[CH3:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[O+:19][C-:20]([C:21]#[N:22])[C:23]#[N:24].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]#[N:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:20]([C:21]#[N:22])([C:23]#[N:24])[O:19][C:16]2([C:14]([CH3:13])=[O:15])[C:17]#[N:18],water,298.15,8.424656079152584,-36.00101359763127
